US07244747B2
To a solution of 1-(hydroxymethyl)-4-propyl-pyrrolidin-2-one a24 (4 g, 25.44 mmol) and triethylamine (1.2 eq, 30.53 mmol, 3.089 g; 4.26 ml) in 25 ml of dichloromethane was added dropwise a solution of diethylcarbamyl choride (1.1 eq, 27.99 mmol, 3.795 g, 3.55 ml) in dichloromethane (5 ml) at room temperature. The crude mixture was allowed to react under agitation and inert atmosphere overnight. Hydrolysis (15 ml of water), extraction (CH2Cl2), drying of the combinated organic layers (MgSO4), filtration and solvent evaporation under reduced pressure gave (2-oxo-4-propylpyrrolidin-1-yl)methyl diethylcarbamate a26 (100%) which was used without any further purification.

reactant | 1-(hydroxymethyl)-4-propyl-pyrrolidin-2-one | OCN1C(CC(C1)CCC)=O | C8H15NO2
reactant | triethylamine | 30.53 mmol, 4.26 ml, 3.089 g, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | diethylcarbamyl choride | 27.99 mmol, 3.55 ml, 3.795 g, 1.1 eq | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | water | 15 ml | O | H2O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2-oxo-4-propylpyrrolidin-1-yl)methyl diethylcarbamate | C(C)N(C(OCN1C(CC(C1)CCC)=O)=O)CC | C13H24N2O3
